US07777038B2
1-(3-Bromopropyl)-5-(1,3-dioxolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (790 mg, 2.32 mmol), 4-benzylpiperidine (0.49 ml, 2.79 mmol) and potassium carbonate (142 mg, 1.03 mmol) were added to acetonitrile (15 ml), followed by heating under reflux for 1.5 hours. After cooling to room temperature, the reaction mixture was filtered to remove the insoluble matter. The solid was washed with acetonitrile, and the filtrate and washing were combined and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1→ethyl acetate:methanol=50:1). The purified product was concentrated under reduced pressure, and the residue was dissolved in acetone (15 ml). p-Toluenesulfonic acid monohydrate (368 mg) was added, and the resulting mixture was heated under reflux for 2 hours. An aqueous solution of potassium carbonate was added to the reaction mixture, followed by concentration under reduced pressure. Water was added to the residue, and extraction with dichloromethane was performed. The organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to thereby obtain 672 mg (yield: quantitative) of 1-[3-(4-benzylpiperidin-1-yl)propyl]-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde as a colorless oil.

reactant | 1-(3-Bromopropyl)-5-(1,3-dioxolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 2.32 mmol, 790 mg | BrCCCN1C(CCC2=C(C=CC=C12)C1OCCO1)=O | C15H18BrNO3
reactant | 4-benzylpiperidine | 2.79 mmol, 0.49 ml | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | potassium carbonate | 1.03 mmol, 142 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-[3-(4-benzylpiperidin-1-yl)propyl]-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde | 672 mg, yield: quantitative | C(C1=CC=CC=C1)C1CCN(CC1)CCCN1C(CCC=2C(=CC=CC12)C=O)=O | C25H30N2O2
